US09326973B2
To a vigorous stirring mixture of 4-fluoro-3,3-dimethylbutan-2-one (4.1 g, 34.7 mmol) in water (50 mL) and NaOH (7 mL, 70.0 mmol) cooled in an ice-acetone bath was added portionwise potassium permanganate (9.87 g, 62.5 mmol). The inner temperature was controlled between −3 to 2° C. during the addition process. Upon the completion of the addition, the reaction mixture was stirred in the ice-acetone bath for 6 hrs and then allowed to warm up. EtOH (5 mL) was added and the reaction mixture was stirred for another 15 min. The reaction mixture was filtered and the solid was washed with water (˜80 mL). The filtration was acidified with 6 N HCl, and extracted with EtOAc. The combined extracts were washed with 1N HCl, sat. NaCl, dried (Na2SO4), filtered and concentrated to yield 4-fluoro-3,3-dimethyl-2-oxobutanoic acid (2.3 g).

reactant | 4-fluoro-3,3-dimethylbutan-2-one | 34.7 mmol, 4.1 g | FCC(C(C)=O)(C)C | C6H11FO
reactant | NaOH | 70.0 mmol, 7 mL | [OH-].[Na+]
reactant | potassium permanganate | 62.5 mmol, 9.87 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | EtOH | 5 mL | CCO | C2H6O
solvent | water | 50 mL | O | H2O
product | 4-fluoro-3,3-dimethyl-2-oxobutanoic acid | 2.3 g | FCC(C(C(=O)O)=O)(C)C | C6H9FO3
